US07307075B2
4-(3-Chloropropyl)-6,8-dimethyl-4H-benzo[1,4]oxazin-3-one (81MF2237b)
6,8-Dimethyl-4H-benzo[1,4]oxazin-3-one (81MF2237a) (1.70 g, 9.60 mmol), Cs2CO3 (4.69 g, 14.4 mmol) and 3-chloro-1-iodopropane (2.15 g, 10.6 mmol) were mixed according to GP6. CC (SiO2; Heptane/EtOAc 10:1-5) gave the title compound (81MF2237b) (0.96 g, 39%). 1H NMR (CDCl3) δ 6.72-6.69 (m, 2H), 4.56 (s, 2H), 4.07 (t, 2H), 3.62 (t, J=6.4 Hz, 2H), 2.30 (s, 3H), 2.20 (s, 3H), 2.19-2.12 (m, 2H); 13C NMR (CDCl3) δ 164.9, 141.5, 131.9, 128.0, 126.7, 126.4, 113.1, 67.8, 42.5, 39.0, 30.3, 21.2, 15.5.

reactant | 6,8-Dimethyl-4H-benzo[1,4]oxazin-3-one | 9.60 mmol, 1.70 g | CC=1C=C(C2=C(NC(CO2)=O)C1)C | C10H11NO2
reactant | Cs2CO3 | 14.4 mmol, 4.69 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-chloro-1-iodopropane | 10.6 mmol, 2.15 g | ClCCCI | C3H6ClI
solvent | Heptane EtOAc | CCCCCCC.CCOC(=O)C
product | 4-(3-Chloropropyl)-6,8-dimethyl-4H-benzo[1,4]oxazin-3-one | 0.96 g, 39% | ClCCCN1C(COC2=C1C=C(C=C2C)C)=O | C13H16ClNO2
